US09210927B2
Step 1. tert-Butyl 2-isopropyl-2-(2,2,2-trifluoroethylcarbamoyl)hydrazine carboxylate
2,2,2-Trifluoroethanamine (284 mg, 2.87 mmol), TEA (0.8 ml, 5.74 mmol)) in CH2Cl2 (6 mL) were added to the solution of triphosgene (298 mg, 1 mmol) in CH2Cl2 (8 mL) at −40° C. and the reaction mixture was stirred for 30 min tert-Butyl N-(isopropylamino)carbamate (JOC, 2013, 78, 3541-3552.) (500 mg, 2.87 mmol) in CH2Cl2 (4 mL) was then added to the reaction mixture at −40° C. and stirred at ambient temperature—overnight. Water was added to the reaction mixture and it was extracted with CH2Cl2. The organic layer wad washed with brine, dried (Na2SO4), filtered and concentrated to afford the title compound as an off white solid (580 mg, crude): mp 90-94° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.70 (bs, 1H), 6.81 (t, J=6.3, 1H), 3.89-3.80 (m, 2H), 3.11-3.08 (m, 1H), 1.40 (s, 9H), 0.97 (d, J=6.0 Hz, 6H); ESIMS m/z 241.9 ([M-tert-Butyl]+).

reactant | 2,2,2-Trifluoroethanamine | 2.87 mmol, 284 mg | FC(CN)(F)F | C2H4F3N
reactant | triphosgene | 1 mmol, 298 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tert-Butyl N-(isopropylamino)carbamate | 2.87 mmol, 500 mg | C(C)(C)NNC(OC(C)(C)C)=O | C8H18N2O2
reactant | Water | O | H2O
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-isopropyl-2-(2,2,2-trifluoroethylcarbamoyl)hydrazine carboxylate | C(C)(C)N(NC(=O)OC(C)(C)C)C(NCC(F)(F)F)=O | C11H20F3N3O3
